US06846819B1
To a suspension of NaH (60% dispersion in mineral oil, 0.44 g, 11 mmole) in dry DMF (40 mL) was added solid 2-amino-5-bromopyridine (1.73 g, 10 mmole) in portions over 5-10 min. Gas evolution was allowed to subside between additions. The resulting amber mixture was stirred for 15 min, then methyl iodide (0.61 mL, 10 mmole) was added all at once. The reaction mixture was stirred at RT overnight, then was concentrated in vacuo. The residue was diluted with 5% NH4Cl (30 mL) and the mixture was extracted with CH2Cl2. The combined organic extracts were washed with brine, dried (MgSO4), and concentrated. Flash chromatography on silica gel (3% MeOH/CH2Cl2) separated the products. 5-Bromo-2-(methylamino)pyridine (0.60 g, 32%) was obtained as a semisolid: TLC (3% MeOH/CH2Cl2) Rf 0.35; MS (ES) m/e 187 (M+H)+. 5-Bromo-2-(dimethylamino)pyridine (0.70 g, 34%) was obtained as a semisolid: TC (3% MeOH/CH2Cl2) Rf 0.77; MS (ES) m/e 201 (M+H)+.

reactant | NaH | 11 mmole, 0.44 g | [H-].[Na+]
reactant | 2-amino-5-bromopyridine | 10 mmole, 1.73 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | methyl iodide | 10 mmole, 0.61 mL | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-(methylamino)pyridine | 0.60 g, 32% | BrC=1C=CC(=NC1)NC | C6H7BrN2
